US06403595B1
4-(7-Chloro-2H-benzopyran-3-sulfonyl)-1-(4-cyanobenzyl)-2-piperazinone
To a solution of 1-(4-cyanobenzyl)-4-vinylsulfonyl-2-piperazinone (1.53 g) and 4-chlorosalicylaldehyde (0.94 g) in tert-butanol (20 ml) was added potassium tert-butoxide (187 mg), and the mixture was refluxed for 4 days. The reaction solution was concentrated under reduced pressure, and precipitated crystals were washed with acetone-ethanol to give pale brown crystals of the title compound (0.88 g).

reactant | 1-(4-cyanobenzyl)-4-vinylsulfonyl-2-piperazinone | 1.53 g | C(#N)C1=CC=C(CN2C(CN(CC2)S(=O)(=O)C=C)=O)C=C1 | C14H15N3O3S
reactant | 4-chlorosalicylaldehyde | 0.94 g | ClC=1C=C(C(C=O)=CC1)O | C7H5ClO2
reactant | potassium tert-butoxide | 187 mg | CC(C)([O-])C.[K+]
solvent | tert-butanol | 20 ml | C(C)(C)(C)O | C4H10O
product | 4-(7-Chloro-2H-benzopyran-3-sulfonyl)-1-(4-cyanobenzyl)-2-piperazinone | 0.88 g | ClC1=CC2=C(C=C(CO2)S(=O)(=O)N2CC(N(CC2)CC2=CC=C(C=C2)C#N)=O)C=C1 | C21H18ClN3O4S
